US04587220
The experiment of Example I was repeated except that 10 mM of the ferric chelate of iminodiacetic acid (Fe-IMDA) solution was used, rather than Fe-HEDTA. The Fe-IMDA solution was prepared by dissolving 0.133 g of IMDA in 100 mL of distilled water and adding FeCl3.6H2O, as described in Example I. The composition so produced formed a blue color, as in Example I, in the presence of 0.139 milligram of hemoglobin per deciliter and 50 μM ascorbate.

reactant | iminodiacetic acid | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | Fe HEDTA | [Fe].C(CN(CC(=O)O)CC(=O)O)N(CCO)CC(=O)O
reactant | IMDA | 0.133 g | C(C(=O)O)NCC(=O)O | C4H7NO4
reactant | ascorbate | 50 μM | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO
solvent | water | 100 mL | O | H2O
product | Fe IMDA | [Fe].C(C(=O)O)NCC(=O)O | InChI=1S/C4H7NO4.Fe/c6-3(7)1-5-2-4(8)9;/h5H,1-2H2,(H,6,7)(H,8,9);
